US09382228B2
A 0° C. solution of tetrahydro-2H-pyran-4-carboxylic acid (0.5 g, 3.84 mmol) in MeCN (15 mL) was treated with EDC (0.884 g, 4.61 mmol) and HOBT (0.706 g, 4.61 mmol) under an argon atmosphere and stirred at 0° C. for 1 h. Ammonium hydroxide (˜15M, 0.512 mL, 7.68 mmol) was added slowly and the mixture was warmed to RT and stirred overnight. The mixture was treated with water, saturated with solid NaCl and the aqueous layer was extracted with THF (2×). The combined organics were washed with brine, dried over Na2SO4 and concentrated to afford tetrahydro-2H-pyran-4-carboxamide (0.23 g, 46%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.20 (s, 1H), 6.73 (s, 1H), 3.82-3.81 (m, 2H), 3.30-3.21 (m, 2H), 2.30-2.27 (m, 1H), 1.60-1.46 (m, 4H).

reactant | tetrahydro-2H-pyran-4-carboxylic acid | 3.84 mmol, 0.5 g | O1CCC(CC1)C(=O)O | C6H10O3
reactant | EDC | 4.61 mmol, 0.884 g
reactant | HOBT | 4.61 mmol, 0.706 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Ammonium hydroxide | 7.68 mmol, ˜15M, 0.512 mL | [OH-].[NH4+]
reactant | NaCl | [Na+].[Cl-]
solvent | MeCN | 15 mL | CC#N | C2H3N
solvent | water | O | H2O
product | tetrahydro-2H-pyran-4-carboxamide | 0.23 g, 46% | O1CCC(CC1)C(=O)N | C6H11NO2
